US08133909B2
N-(5-Methyl-thiazol-2-yl)-2-p-tolyl-acetamide
To a suspension of p-tolylacetic acid (1.00 g, 6.66 mmol) and 2-amino-5-methylthiazole (0.760 g, 6.66 mmol) in dichloromethane (10 mL) was added at 0° C. under a nitrogen atmosphere 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.40 g, 7.32 mmol), 1-hydroxybenzotriazole (90 mg, 0.67 mmol) and N,N-diisopropyl ethyl amine (1.8 mL, 10 mmol). The ice bath was removed and the resulting solution was stirred for 3 h at ambient temperature. The reaction mixture was diluted with dichloromethane (20 mL) and washed with aqueous sodium carbonate (half-concentrated, 20 mL) and water (20 mL). The aqueous layers were extracted with dichloromethane (20 mL) and the combined organic layers were dried over sodium sulfate. The filtrate was concentrated and the residue was suspended in TBME (20 mL) and filtered. Washing with TBME (10 mL) afforded the title compound (1.48 g, 90%) as a white solid. MS m/e: 247.2 [M+H]+.

reactant | p-tolylacetic acid | 6.66 mmol, 1.00 g | C1(=CC=C(C=C1)CC(=O)O)C | C9H10O2
reactant | 2-amino-5-methylthiazole | 6.66 mmol, 0.760 g | NC=1SC(=CN1)C | C4H6N2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 7.32 mmol, 1.40 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.67 mmol, 90 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropyl ethyl amine | 10 mmol, 1.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(5-Methyl-thiazol-2-yl)-2-p-tolyl-acetamide | 1.48 g, 90% | CC1=CN=C(S1)NC(CC1=CC=C(C=C1)C)=O | C13H14N2OS
